US08183381B2
Step 1: tert-Butyl 3-oxo-8-azabicyclo[3.2.1]octane-8-carboxylate
The title compound was synthesized from 8-azabicyclo[3.2.1]octan-3-one hydrochloride and di-tert-butyl dicarbonate in a manner similar to that described in Journal of Organic Chemistry 2005, 70, 10872-10874

reactant | 8-azabicyclo[3.2.1]octan-3-one hydrochloride | Cl.C12CC(CC(CC1)N2)=O
reactant | di-tert-butyl dicarbonate | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
product | tert-Butyl 3-oxo-8-azabicyclo[3.2.1]octane-8-carboxylate | O=C1CC2CCC(C1)N2C(=O)OC(C)(C)C | C12H19NO3
